US05410054
Step 1: 7-Methoxy-4-phenylquinoline
To a solution of 7-methoxy-4-phenyl-2-quinolinone (4.1 g) in THF (300 mL) at reflux was added lithium aluminum hydride (1M in THF; 65 mL). The mixture was refluxed for 50 hr, cooled to 0° C. and then treated successively with H2O (2.5 mL), 15% aq. NaOH (2.5 mL) and H2O (7.5 mL). The precipitate that formed was removed by filtration, washed with THF, and the filtrate was concentrated and redissolved in acetonitrile (100 mL). To this solution at r.t. was added dropwise a solution of ceric ammonium nitrate (7.7 g) in H2O (30 mL). After the addition was complete, H2O (600 mL) was added and the resulting mixture extracted with EtOAc (3×). The combined organics were washed with H2O (2×) and brine, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; EtOAc/hexane (1:1)) provided the title compound as a beige gum.

reactant | 7-methoxy-4-phenyl-2-quinolinone | 4.1 g | COC1=CC=C2C(=CC(NC2=C1)=O)C1=CC=CC=C1 | C16H13NO2
reactant | lithium aluminum hydride | 1M, 65 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 2.5 mL | O | H2O
reactant | NaOH | 2.5 mL | [OH-].[Na+]
reactant | H2O | 7.5 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 7-Methoxy-4-phenylquinoline | COC1=CC=C2C(=CC=NC2=C1)C1=CC=CC=C1 | C16H13NO
